US06017426
Preparation of 2-(2'-hydroxyhexadecanoyl)aminooctadecane-1,3-diol
4.9 g (0.018 mol) of 2-hydroxyhexadecanoic acid and 5.4 g (0.018 mol) of 2-aminooctadecane-1,3-diol were mixed in a glass tube; the mixture was irradiated with microwaves with the aid of a Synthewave 402™ apparatus from Prolabo--frequency 2450±50 MHz--modulable power rating 300 W. After an irradiation of 15 minutes at 155° C.±5° C., the reaction mixture was solubilized at high temperature in a mixture of 80 ml of ethyl acetate and 20 ml of heptane. The precipitate obtained was recrystallized from ethanol and 7 g of expected pure product were obtained with a yield of 70%.

reactant | 2-hydroxyhexadecanoic acid | 0.018 mol, 4.9 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | 2-aminooctadecane-1,3-diol | 0.018 mol, 5.4 g | NC(CO)C(CCCCCCCCCCCCCCC)O | C18H39NO2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | heptane | 20 ml | CCCCCCC | C7H16
product | 2-(2'-hydroxyhexadecanoyl)aminooctadecane-1,3-diol | yield of 70% | OC(C(=O)NC(CO)C(CCCCCCCCCCCCCCC)O)CCCCCCCCCCCCCC | C34H69NO4
